* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*DATE=27Jul2022
*VERSION=1.1

.subckt dgd05473 VCC NC VB HO VS EN HIN LIN COM LO
C1 uvvc COM 10p
S2 COM uvvc VCC COM SUVCC
C4 cdh COM 28.5n
C5 ondlyh COM 10p
C6 ondlyl COM 10p
D5 COM VCC DMOD
R5 VCC COM 40k
D6 COM VS DMODH
D7 VS VB DMOD
C7 dlyoutl COM 10p
S4 drvlp illp dlyoutl COM SRSTP
S5 illn drvln dlyoutl COM SRSTN
R6 drvlp LO 2.25  
R7 drvln LO 1.5  
C8 LO COM 2.3n
D8 COM LO DMOD
D9 LO VCC DMOD
R8 VB VS 130k
C9 onh COM 10p
S6 drvhp ilhp onh COM SRSTP
S7 ilhn drvhn onh COM SRSTN
R9 drvhp HO 2.25  
R10 drvhn HO 1.5  
C10 HO VS 2.3n
D10 VS HO DMOD
D11 HO VB DMOD
R11 uvvc bias1 1k
S8 COM uvbs VB VS SUVCC
C11 uvbs COM 10p
R12 uvbs bias2 1k  
XX1 cdh offconth offdlyh VCC ideal_comparator
XX2 onconth cdh ondlyh VCC ideal_comparator
XX3 cdl offcontl offdlyl VCC ideal_comparator
XX4 oncontl cdl ondlyl VCC ideal_comparator
D12 COM VB DMODH
E2 bias2 COM VCC COM 1
C12 cdl COM 28.5n
XX5 lino uvvc lovc VCC ideal_nand_2
XX6 uvvc hino hivc VCC ideal_nand_2
BdlyOff1 offcontl COM V=(V(VCC)-V(VCC)*EXP(-33n/50.5n))
BdlyOn1 oncontl COM V=V(VCC)*EXP(-33n/50.5n)
BdlyOff2 offconth COM V=(V(VCC)-V(VCC)*EXP(-33n/50.5n))
BdlyOn2 onconth COM V=V(VCC)*EXP(-33n/50.5n)
XX7 lovc cdl VCC ideal_buffercd
XX8 hivc cdh VCC ideal_buffercd
XX9 ondlyh dlyouth onhrs VCC nor_2
XX10 offdlyh onhrs dlyouth VCC nor_2
XX11 ondlyl dlyoutl onlrs VCC nor_2
XX12 offdlyl onlrs dlyoutl VCC nor_2
C13 dlyouth COM 10p
XX13 uvbs dlyouth onh VCC ideal_and_2
E3 bias4 VS HO drvhn 1
R17 bias4 dlyhn 10k
C16 dlyhn VS 10p
E4 bias5 VS drvhp HO 1
R18 bias5 dlyhp 10k
C17 dlyhp VS 10p
S9 ilhp VB dlyhp VS SILIMP
S10 VS ilhn dlyhn VS SILIMN
E5 bias6 COM LO drvln 1
R19 bias6 dlyln 10k
C18 dlyln COM 10p
E6 bias7 COM drvlp LO 1
R20 bias7 dlylp 10k
C19 dlylp COM 10p
S11 illp VCC dlylp COM SILIMP
S12 COM illn dlyln COM SILIMN
S1 COM hinst HIN COM SLIN
D1 COM HIN DMOD
D2 HIN VCC DMOD
R1 HIN COM 200k
R2 bias1 hinst 100k
S3 COM linst LIN COM SLIN
R3 LIN COM 200k
R4 linst bias1 100k
D3 COM LIN DMOD
D4 LIN VCC DMOD
E1 bias1 COM VCC COM 1
R13 hinstb hdelay {Rdelay}
C2 hdelay COM {Cdelay}
R14 linstb ldelay {Rdelay}
C3 ldelay COM {Cdelay}
XX14 hinst hinstb VCC ideal_inverter
XX15 hdelay hdelayb VCC ideal_inverter
XX16 linst linstb VCC ideal_inverter
XX17 ldelay ldelayb VCC ideal_inverter
D14 COM EN DMOD
D15 EN VCC DMOD
S13 COM sdown EN COM SLEN
R15 EN COM 116k
R16 bias1 sdown 100k
XX18 linstb hdelayb sdown VCC lino ideal_nor_3
XX19 hinstb sdown ldelayb VCC hino ideal_nor_3
D13 VCC VB Dboost
.MODEL DMOD D(IS=1.0e-14 RS=0.01 N=1 EG=1.11 XTI=3 BV=25 IBV=10u CJO=0 VJ=0.75 M=0.333 FC=0.5 TT=0 KF=0 AF=1)
.MODEL DMODH D(IS=1.0e-14 RS=0.01 N=1 EG=1.11 XTI=3 BV=60 IBV=5u CJO=0 VJ=0.75 M=0.333 FC=0.5 TT=0 KF=0 AF=1)
.MODEL SRSTN SW(Ron=10Meg Roff=1m Vt=1.5 Vh=1.2)
.MODEL SRSTP SW(Ron=1m Roff=10Meg Vt=1.5 Vh=1.2)
.MODEL SLIN SW(Ron=10Meg Roff=1m Vt=1.5 Vh=0.15)
.MODEL SUVCC SW(Ron=10Meg Roff=1m Vt=3.55 Vh=0.25)
.MODEL SILIMN SW(Ron=4.5 Roff=1m Vt=3 Vh=0.01)
.MODEL SILIMP SW(Ron=5.75 Roff=1m Vt=3.375 Vh=0.01)
.MODEL SDIN SW(Ron=1m Roff=100Meg Vt=1.5 Vh=0.15)
.MODEL Dboost D(IS=1.5f RS=8.5 CJO=150p M=0.3 VJ=0.75 ISR=1p BV=100 Ibv=5u)
.MODEL SLEN SW(Ron=1m Roff=10Meg Vt=1.05 Vh=0.35)
.param Cdelay=10p Rdelay=15.3k T1=-40 T2=25 T3=125 V1=10 V2=15 V3=20 toffT2=65n tonT2=58n
.ends dgd05473

.subckt ideal_comparator 1 2 3 VDD
S3 3 VDD 1 2 switmod
S4 0 3 2 1 switmod
.model switmod SW(Ron=1m Roff=10Meg Vt=0 Vh=0.000001)
.ends ideal_comparator

.subckt ideal_nand_2 A B Y Vdd
S1 Y Vdd Vtrip A switmod
S2 N001 Y A Vtrip switmod
E1 Vtrip 0 Vdd 0 0.5
S3 Y Vdd Vtrip B switmod
S5 0 N001 B Vtrip switmod
C1 Y 0 10p
.model switmod SW(Ron=1m Roff=10Meg Vt=0 Vh=0.000001)
.ends ideal_nand_2

.subckt ideal_buffercd A Y Vdd
S3 Y Vdd A N001 switmodcd
S4 0 Y N001 A switmodcd
E1 N001 0 Vdd 0 0.5
C1 Y 0 10p
.model switmodcd SW(Ron=1 Roff=10Meg Vt=0 Vh=0.00001)
.ends ideal_buffercd

.subckt nor_2 A B Y Vdd
M1 Y B N001 Vdd PFET l=1u w=100u
M2 N001 A Vdd Vdd PFET l=1u w=100u
M3 Y B 0 0 NFET l=1u w=50u
M4 Y A 0 0 NFET l=1u w=50u
.MODEL PFET PMOS (LEVEL=3 TOX=200E-10 NSUB=1E17 GAMMA=0.6 PHI=0.7 VTO=-0.9 DELTA=0.1 UO=250 ETA=0 THETA=0.1
+ KP=40E-6 VMAX=5E4 KAPPA=1 RSH=0 NFS=1E12 TPG=-1 XJ=500E-9 LD=100E-9 CGDO=200E-12 CGSO=200E-12 CGBO=1E-10
+ CJ=400E-6 PB=1 MJ=0.5 CJSW=300E-12 MJSW=0.5)
.MODEL NFET NMOS (LEVEL=3 TOX=200E-10 NSUB=1E17 GAMMA=0.5 PHI=0.7 VTO=0.8 DELTA=3.0 UO=650 ETA=3.0E-6 THETA =0.1
+ KP=120E-6 VMAX=1E5 KAPPA=0.3 RSH=0 NFS=1E12 TPG=1 XJ=500E-9 LD=100E-9 CGDO=200E-12 CGSO=200E-12 CGBO=1E-10
+ CJ=400E-6 PB=1 MJ= 0.5 CJSW=300E-12 MJSW=0.5)
.ends nor_2

.subckt ideal_and_2 A B Y Vdd
S1 N001 Vdd Vtrip A switmod
S2 N002 N001 A Vtrip switmod
E1 Vtrip 0 Vdd 0 0.5
S3 N001 Vdd Vtrip B switmod
S5 0 N002 B Vtrip switmod
S4 Y Vdd Vtrip N001 switmod
S6 0 Y N001 Vtrip switmod
C1 N001 0 10p
C2 Y 0 10p
.model switmod SW(Ron=1m Roff=10Meg Vt=0 Vh=0.000001)
.ends ideal_and_2

.subckt ideal_inverter A Y Vdd
S3 Y Vdd N001 A switmod
S4 0 Y A N001 switmod
E1 N001 0 Vdd 0 0.5
C1 Y 0 10p
.model switmod SW(Ron=1m Roff=10Meg Vt=0 Vh=0.00001)
.ends ideal_inverter

.subckt ideal_nor_3 A B C Vdd Y
S1 Y N002 Vtrip A switmod
S2 0 Y A Vtrip switmod
E1 Vtrip 0 Vdd 0 0.5
S3 N002 N001 Vtrip B switmod
S5 0 Y B Vtrip switmod
C1 Y 0 10p
S4 N001 Vdd Vtrip C switmod
S6 0 Y C Vtrip switmod
.model switmod SW(Ron=1m Roff=10Meg Vt=0 Vh=0.00001)
.ends ideal_nor_3


*                	 (c)  2023 Diodes Inc
*
*   Diodes Incorporated and its affiliated companies and subsidiaries 
*   (collectively, "Diodes") provide these spice models and data 
*   (collectively, the "SM data") "as is" and without any representations
*   or warranties, express or implied, including any warranty of
*   merchantability or fitness for a particular purpose, any warranty 
*   arising from course of dealing or course of performance, or any 
*   warranty that access to or operation of the SM data will be
*   uninterrupted, or that the SM data or any simulation using the SM data
*   will be error free.
*
*   To the maximum extent permitted by law, in no event will Diodes be
*   liable for any indirect, special, incidental, punitive or consequential
*   damages arising out of or in connection with the production or use of
*   SM data, however caused and under whatever cause of action or theory of
*   liability brought (including, without limitation, under any contract,
*   negligence or other tort theory of liability), even if Diodes has been
*   advised of the possibility of such damages, and Diodes' total liability
*   (whether in contract, tort or otherwise) with regard to the SM data
*   will not, in the aggregate, exceed any sums paid by you to Diodes for
*   the SM data
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL
